US06700001B2
Treatment of 5-(benzyloxy)quinoline-6-carbaldehyde with sodium borohydride in methanol following the procedure described for Example 4, step 1 provides [5-(benzyloxy)quinolin-6-yl]methanol.

reactant | 5-(benzyloxy)quinoline-6-carbaldehyde | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1C=O | C17H13NO2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | [5-(benzyloxy)quinolin-6-yl]methanol | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1CO | C17H15NO2
